US05739132
In 100 ml of tetrahydrofuran was suspended 5.7 g of lithium aluminum hydride, and to the suspension was added dropwise 18.9 g of 2-propionyl aminoindane dissolved in 150 ml of tetrahydrofuran. The mixture was refluxed under heating for 2 hours. After cooling, excessive lithium aluminum hydride was treated with a saturated ammonium chloride aqueous solution, and insolubles were removed by filtration. The filtrate was condensed, and chloroform was added to the residue. After the mixture was washed with 10 water and dried, the solvent was removed to obtain 17.5 g of 2-propylaminoindane.

reactant | lithium aluminum hydride | 5.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-propionyl aminoindane | 18.9 g | C(CC)(=O)C1C(C2=CC=CC=C2C1)N | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-propylaminoindane | 17.5 g | C(CC)NC1CC2=CC=CC=C2C1 | C12H17N
